US04282031
1-Amino-3-(2-naphthyl)thiourea
Anhydrous hydrazine (1.1 g, 0.035 mole) was dissolved in 150 ml of diethyl ether in a round-bottomed flask. 2-Naphthyl isothiocyanate (4.6 g, 0.25 mole) was added dropwise to the mixture keeping the pot temperature below 30° during the addition. The reaction mixture was stirred overnight at room temperature. The reactants were then cooled and the title product filtered off. The product was air-dried, yield 4.5 g, m.p. 174°-6°.

reactant | hydrazine | 0.035 mole, 1.1 g | NN | H4N2
reactant | 2-Naphthyl isothiocyanate | 0.25 mole, 4.6 g | C1=C(C=CC2=CC=CC=C12)N=C=S | C11H7NS
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 1-Amino-3-(2-naphthyl)thiourea | NNC(=S)NC1=CC2=CC=CC=C2C=C1 | C11H11N3S
